US05455274
A stirred solution of 2-acetoxy-4-[5-(4-cyanophenoxy)pentyloxy]-N,N-bis(1-methylethyl)benzamide (10 g, 21.5 mmol) in 250 mL of ethanol is treated with 1N sodium hydroxide solution (25 mL, 25 mmol). After stirring at room temperature for 2 hours, the reaction is concentrated in vacuo. This material is partitioned between ethyl acetate and 1N hydrochloric acid. The organic phase is washed with brine, dried over sodium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (200 g) with 40-50% ethyl acetate/hexane as the eluent to afford 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide as a colorless foam.

reactant | 2-acetoxy-4-[5-(4-cyanophenoxy)pentyloxy]-N,N-bis(1-methylethyl)benzamide | 21.5 mmol, 10 g | C(C)(=O)OC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)OCCCCCOC1=CC=C(C=C1)C#N | C27H34N2O5
reactant | sodium hydroxide | 25 mmol, 1N, 25 mL | [OH-].[Na+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)O)C=C1 | C25H32N2O4
